US04261892
Seven grams (0.02 mole) of 2-chloro-4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazine, 31 g. (0.2 mole) of 1,8,8-trimethyl-3-azabicyclo[3.2.1]octane, 7.1 ml. (0.04 mole) of N,N-diisopropylethylamine and xylene are refluxed under an argon atmosphere for 22 hours. After cooling, the reaction is diluted with ethyl acetate and water. The mixture is then washed with water, the organic phase dried over magnesium sulfate, filtered through diatomaceous earth and evaporated in vacuo. Addition of toluene and re-evaporation in vacuo several times gives a solid. This solid is then dissolved in dichloromethane, filtered through Magnesol® and the Magnesol® washed with dichloromethane. Evaporation of the solvent and purification by column chromatography gives 2-(1,8,8-trimethyl-3-azabicyclo[3.2.1]octyl)-4,6-bis(1,1,2,2-tetramethylpropylamino)-s-triazine.

reactant | 2-chloro-4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazine | 0.02 mole, Seven grams | ClC1=NC(=NC(=N1)NC(C(C)(C)C)(C)C)NC(C(C)(C)C)(C)C | C17H32ClN5
reactant | 1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | 0.2 mole | CC12CNCC(CC1)C2(C)C | C10H19N
reactant | N,N-diisopropylethylamine | 0.04 mole | C(C)(C)N(C(C)C)CC | C8H19N
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(1,8,8-trimethyl-3-azabicyclo[3.2.1]octyl)-4,6-bis(1,1,2,2-tetramethylpropylamino)-s-triazine | CC12C(NCC(CC1)C2(C)C)C2=NC(=NC(=N2)NC(C(C)(C)C)(C)C)NC(C(C)(C)C)(C)C | C27H50N6
